US08466176B2
To a stirred solution thionyl bromide (2.44 g, 11.78 mmol, 1.05 eq.) in 50 ml dry DCM, cooled to 5° C., was added dropwise a solution of (6-bromo-3-fluoropyridin-2-yl)methanol (2.54 g, 11.22 mmol, 1 eq.) and pyridine (0.931 g, 11.78 mmol, 1.05 eq.) in 15 ml dry DCM. On complete addition, the cooling bath was removed, the reaction warmed to room temperature and stirred 1.5 hr. 150 ml of water and 150 ml of DCM were added and stirring allowed for 2 mins. The organic layer was separated, dried of MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give 6-bromo-2-(bromomethyl)-3-fluoropyridine (2.89 g, 87% yield) as a white solid.

reactant | thionyl bromide | 11.78 mmol, 2.44 g, 1.05 eq. | S(=O)(Br)Br | Br2OS
reactant | (6-bromo-3-fluoropyridin-2-yl)methanol | 11.22 mmol, 2.54 g, 1 eq. | BrC1=CC=C(C(=N1)CO)F | C6H5BrFNO
reactant | pyridine | 11.78 mmol, 0.931 g, 1.05 eq. | N1=CC=CC=C1 | C5H5N
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 6-bromo-2-(bromomethyl)-3-fluoropyridine | 2.89 g, 87% yield | BrC1=CC=C(C(=N1)CBr)F | C6H4Br2FN
